US04637997
0.8 g of Boc-Val-Glu(OBut)-OH (1.9 mmol) is dissolved in 5 cm3 of tetrahydrofuran cooled to -15° C. 0.21 cm3 of N-methylmorpholine (1.9 mmol) and 0.25 cm3 of isobutyl chloroformate are added in succession. After 2 minutes, the solution of Pro-Ile-Pro-Tyr-OMe in 5 cm3 of dimethylformamide, prepared earlier, is added. The reaction mixture is stirred for 1 hour at -15° C. and then for 2 hours at 20° C. The solvents are removed under reduced pressure. The 1.2 g of crude product obtained are purified by chromatography on silica gel by eluting with mixtures of ethyl acetate and petroleum ether (1-1; 7-2 and 8-2 by volume). The main fraction is purified by chromatography on silica gel by eluting with methylene chloride containing 3% of methanol (by volume). In this way, 0.6 g of Boc-Val-Glu(OBut)-Pro-Ile-Pro-Tyr-OMe is obtained, the properties of which are as follows:

reactant | Boc-Val-Glu(OBut)-OH | 1.9 mmol, 0.8 g | N([C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OC(C)(C)C | C19H34N2O7
reactant | N-methylmorpholine | 1.9 mmol, 0.21 cm3 | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.25 cm3 | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Pro-Ile-Pro-Tyr-OMe | N1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=C(C=C3)O)C(=O)OC)CCC2)CCC1 | C26H38N4O6
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
product | Boc-Val-Glu(OBut)-Pro-Ile-Pro-Tyr-OMe | 0.6 g | N([C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=C(C=C3)O)C(=O)OC)CCC2)CCC1)C(=O)OC(C)(C)C | C45H70N6O12
